US05834468
6-(N-Ethyl-N-(2-(benzylamino)benzyl)amino)pyridazine-3-carboxylic acid
6-(N-Ethyl-N-(2-(benzylamino)benzyl)amino)pyridazine-3- carboxamide (0.49 g) in n-butanol was treated with sodium hydroxide pellets (140 mg) and heated at gentle reflux for 9 hours. The reaction was allowed to cool, was evaporated to dryness and the residue taken into water and acidified with acetic acid. The mixture was extracted with ethyl acetate (×2) and the extracts dried and evaporated to give a gum which was purified by MPLC to give the title compound as a brown foam (220 mg, 45%).

reactant | 6-(N-Ethyl-N-(2-(benzylamino)benzyl)amino)pyridazine-3- carboxamide | 0.49 g | C(C)N(CC1=C(C=CC=C1)NCC1=CC=CC=C1)C1=CC=C(N=N1)C(=O)N | C21H23N5O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | n-butanol | C(CCC)O | C4H10O
product | 6-(N-Ethyl-N-(2-(benzylamino)benzyl)amino)pyridazine-3-carboxylic acid | 220 mg, 45% | C(C)N(CC1=C(C=CC=C1)NCC1=CC=CC=C1)C1=CC=C(N=N1)C(=O)O | C21H22N4O2
